US07776869B2
To a solution of 1-bromo-4-aminonapthalene (2.6 g, 12 mmol) in dichloromethane (45 mL) was added di(1H-imidazol-1-yl)methanethione (2.1 g, 12 mmol). The reaction was allowed to stir for 16 h, at which point the reaction was concentrated to give a gray solid. The solid was slurried in 50% EtOAc/hexanes and filtered through a pad of silica gel, rinsing with 400 mL 50% EtOAc/hexanes. The solution was concentrated to give 1-bromo-4-isothiocyanatonaphthalene as a gray solid, which was used without further purification.

reactant | 1-bromo-4-aminonapthalene | 12 mmol, 2.6 g | BrC1=CC=C(C2=CC=CC=C12)N | C10H8BrN
reactant | di(1H-imidazol-1-yl)methanethione | 12 mmol, 2.1 g | N1(C=NC=C1)C(=S)N1C=NC=C1 | C7H6N4S
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
product | 1-bromo-4-isothiocyanatonaphthalene | BrC1=CC=C(C2=CC=CC=C12)N=C=S | C11H6BrNS
